US06903120B2
4-(3-Methanesulfonyl-phenyl)-1-ethyl-piperidine
Beginning with 4-(3-methanesulfonyl-phenyl)-piperidine and iodoethane: m.p. 158° C. (HCl). MS m/z (rel. intensity, 70 eV) 267 (M+, 20), 252 (bp), 130 (10), 115 (12), 84 (20);

reactant | 4-(3-methanesulfonyl-phenyl)-piperidine | CS(=O)(=O)C=1C=C(C=CC1)C1CCNCC1 | C12H17NO2S
reactant | iodoethane | ICC | C2H5I
reactant | HCl | Cl | ClH
product | 4-(3-Methanesulfonyl-phenyl)-1-ethyl-piperidine | CS(=O)(=O)C=1C=C(C=CC1)C1CCN(CC1)CC | C14H21NO2S
